US06498254B1
Preparation of 2-[[(2-chloro-4-nitrophenyl)methyl]sulfonyl]pyridine-N-oxide
To a mixture consisting of 16.1 g (0.055 mole) of 2-[[(2-chloro-4-nitrophenyl)-methyl]sulfinyl]-pyridin-1-oxide and 60 ml of acetic acid was added, dropwise at room temperature over 0.5 hours, 13.5 g (1.3 mole) of peracetic acid in acetic acid (40%). The mixture was heated at 70° C. for six hours. The reaction was worked up in the usual fashion, but the product proved to be a mixture of the starting material and desired sulfone. The isolated material (10 g), estimated to contain about 16% sulfoxide, was subsequently redissolved in 40 ml of acetic acid and 1.33 g of 40% peracetic acid in acetic acid was added. The mixture was heated for seven hours at 70° C. and then stirred at room temperature overnight. The excess peracetic acid was destroyed with sodium bisulfite, the mixture was then poured into ice water and then neutralized with potassium carbonate. The solid was filtered off and dried, having a melting point of 199-201 ° C. An NMR spectrum supported the proposed structure.

reactant | 2-[[(2-chloro-4-nitrophenyl)-methyl]sulfinyl]-pyridin-1-oxide | 0.055 mole, 16.1 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])CS(=O)C1=[N+](C=CC=C1)[O-] | C12H9ClN2O4S
reactant | peracetic acid | 1.3 mole, 13.5 g | C(C)(=O)OO | C2H4O3
reactant | peracetic acid | 1.33 g | C(C)(=O)OO | C2H4O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 2-[[(2-chloro-4-nitrophenyl)methyl]sulfonyl]pyridine-N-oxide | ClC1=C(C=CC(=C1)[N+](=O)[O-])CS(=O)(=O)C1=[N+](C=CC=C1)[O-] | C12H9ClN2O5S
